US08980877B2
(±)-(E)-3-{1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester (250 mg, 0.561 mmol) was hydrolyzed with 1 M NaOH (0.73 ml) following the procedure described in Example 30, Step A, giving (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (150 mg) as a brown solid.

reactant | (±)-(E)-3-{1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester | 0.561 mmol, 250 mg | COC(\C=C\C=1C=CC2=C(C(NC3(CN(CCC3)CC3=CN(C4=CC=CC=C34)C)O2)=O)C1)=O | C26H27N3O4
reactant | NaOH | 1 M, 0.73 ml | [OH-].[Na+]
product | (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 150 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C24H22N2O4
